US07122546B2
Step 1. Preparation of 6-chloro-4-ethoxy-pyridazine-3-carboxylic acid ethyl ester
Sodium ethoxide (1.16 g, 17 mmol) is added to a stirred solution of 4,6-dichloropyridazine-3-carboxylic acid ethyl ester (3.73 g, 17 mmol) in THF (45 mL) cooled to 0° C. The reaction mixture is stirred at room temperature overnight and then poured into 1N HCl (20 mL). The resulting solution is then neutralized with saturated NaHCO3. EtOAc (20 mL) is added and the layers are separated. The aqueous layer is extracted twice with EtOAc (20 mL) and the combined extracts are washed with brine (25 mL), dried (Na2SO4), and evaporated. The residue is then purified by flash column chromatography (silica gel, eluted with 2:1 Hexane, EtOAc) to give the title product as a white solid. H1 NMR δ (CDCl3) 7.02 (s, 1H), 4.47 (q, 2H, J=7.2 Hz), 4.19 (q, 2H, J=7.2 Hz), 1.50 (t, 3H, J=7.2 Hz), 1.41 (t, 3H, J=7.2 Hz).

reactant | Sodium ethoxide | 17 mmol, 1.16 g | [O-]CC.[Na+]
reactant | 4,6-dichloropyridazine-3-carboxylic acid ethyl ester | 17 mmol, 3.73 g | C(C)OC(=O)C=1N=NC(=CC1Cl)Cl | C7H6Cl2N2O2
reactant | HCl | 1N, 20 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 45 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 6-chloro-4-ethoxy-pyridazine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=NC(=CC1OCC)Cl | C9H11ClN2O3
